US08431695B2
5-(2-Benzyl-2H-indazol-6-yl)-7-[1-(4,5-dihydro-oxazol-2-yl)-piperidin-3-yl]-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine
5-(2-Benzyl-2H-indazol-6-yl)-7-piperidin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine (63 mg, 0.15 mmol) was dissolved in 1 mL of acetonitrile and 0.5 ml. DMF and treated with 2-bromoethyl isocyante (0.013 mL, 0.16 mmol) and the mixture was stirred 3 h. The reaction was quenched by the addition of −0.2 mL water. This mixture was directly injected on to a preparative HPLC. The product containing fractions were collected, and the TFA from the eluate was removed via filtration through an acidic resin followed by washing with acetonitrile. The product was then eluted with 2M NH3 in MeOH. The MeOH was removed and the residue was dried overnight in a vacuum oven at 40° C. to provide the title compound. NMR (300 MHz, DMSO-d6) δ 8.54 (s, 1H), 7.91 (s, 1H), 7.80 (d, 1H), 7.59 (s, 4H), 7.38-7.24 (m, 5H), 7.12 (d, 1H), 6.61 (s, 1H), 5.62 (s, 2H), 4.24 (m, 2H), 4.10 (dd, 1H), 3.83 (dd, 1H), 3.61 (m, 2H), 2.93 (m, 1H), 2.89 (m, 1H), 2.08 (m, 1H) 1.72 (m, 2H), 1.58 (m, 1H). ES-MS m/z 493.2 [M+H]+, HPLC RT (min) 2.29.

reactant | 5-(2-Benzyl-2H-indazol-6-yl)-7-piperidin-3-yl-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | 0.15 mmol, 63 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CNCCC2 | C25H25N7
reactant | DMF | CN(C)C=O | C3H7NO
reactant | acetonitrile | 1 mL | C(C)#N | C2H3N
product | 5-(2-Benzyl-2H-indazol-6-yl)-7-[1-(4,5-dihydro-oxazol-2-yl)-piperidin-3-yl]-pyrrolo[2,1-f][1,2,4]triazin-4-ylamine | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CN(CCC2)C=2OCCN2 | C28H28N8O
